US04460596
2 g of 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetic acid, 3 g of thionyl chloride and 30 ml of n-pentanol are treated in the same manner as described in Example 13. One g of n-pentyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate is thereby obtained. Yield: 40.2%

reactant | 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetic acid | 2 g | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H11NO3S
reactant | thionyl chloride | 3 g | S(=O)(Cl)Cl | Cl2OS
solvent | n-pentanol | 30 ml | C(CCCC)O | C5H12O
product | n-pentyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate | Yield: 40.2% | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)OCCCCC)C1=CSC=C1 | C20H21NO3S
